US07423061B2
N-[(3S)-Azepan-3-yl]-5-(4-methoxyphenyl)-2-{[(pyrazin-2-ylamino)carbonyl]amino}thiophene-3-carboxamide;
hydrochloride. To a stirred solution of tert-butyl(3S)-3-{[(5-(4-methoxyphenyl)-2-{[(pyrazin-2-ylamino)carbonyl]amino}-3-thienyl)carbonyl]amino}azepane-1-carboxylate (0.51 g, 0.9 mmol) in 10 mL of MeOH is added 10 mL (40 mmol) of 4.0 N HCl in dioxane. The solution was stirred at room temperature for 4 h and then concentrated under vacuum. The residue was partially recrystallized by triturating in refluxing 2-propanol to yield the title compound are a light orange solid (0.30 g, 67%). 1H NMR (d6-DMSO δ 12.6, br s, 1H; δ 10.9, s, 1H; δ 9.55, br s, 1H; δ 9.24, br s, 1H; δ 8.88, s, 1H; δ 8.49, d, 1H; δ 8.35, dd, 1H; δ 8.29, d, 1H; δ 7.92, s, 1H; δ 7.54, d, 2H; δ 6.99, d, 2H; δ 4.42, m, 1H; δ 3.33, m, 1H; δ 3.23, m, 2H; δ 3.10, m, 1H; δ 2.02, m, 1H; δ 1.85, m, 4H; δ 1.62, m, 1H;), LC/MS (APCI, ES, M+H=467).

reactant | hydrochloride | Cl | ClH
reactant | tert-butyl(3S)-3-{[(5-(4-methoxyphenyl)-2-{[(pyrazin-2-ylamino)carbonyl]amino}-3-thienyl)carbonyl]amino}azepane-1-carboxylate | 0.9 mmol, 0.51 g | COC1=CC=C(C=C1)C1=CC(=C(S1)NC(=O)NC1=NC=CN=C1)C(=O)N[C@@H]1CN(CCCC1)C(=O)OC(C)(C)C | C28H34N6O5S
reactant | HCl | 40 mmol, 4.0 N, 10 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(3S)-Azepan-3-yl]-5-(4-methoxyphenyl)-2-{[(pyrazin-2-ylamino)carbonyl]amino}thiophene-3-carboxamide | N1C[C@H](CCCC1)NC(=O)C1=C(SC(=C1)C1=CC=C(C=C1)OC)NC(=O)NC1=NC=CN=C1 | C23H26N6O3S
